US07378418B2
244D. Preparation of 2-Benzyl-4-chloro-5-(4-chlorophenyl)pyridazin-3(2H)-one
A mixture of 2-benzyl-5-(4-chlorophenyl)-4-methoxypyridazin-3(2H)-one (13.8 g, 42.23 mmol) and POCl3 (20.0 mL) was stirred at 75° C. for 4 h. The reaction mixture was cooled to RT and concentrated under reduced pressure. The residue was cooled in an ice bath and water (200 mL) was added. The undissolved material was filtered and washed with water (3×150 mL). To the solid thus obtained was added MeOH (100 mL). The resultant mixture was sonicated for 10 mins, and then was filtered. The collected solid was washed with MeOH (2×50 mL). The solid was then dried in an vacuum oven at 50° C. to give the title compound, 2-benzyl-4-chloro-5-(4-chlorophenyl)pyridazin-3(2H)-one, (9.2 g, 66%) as a light brown solid. HPLC: 3.75 min; M+H=331. 1H NMR (CDCl3, 500 MHz): δ 7.73 (1H, s), 7.50 (2H, d, J=10.0 Hz), 7.47 (2H, d, J=10.0 Hz), 7.42 (2H, d, J=10.0 Hz), 7.30-7.38 (3H, m), 5.39 (2H, s).

reactant | 2-benzyl-5-(4-chlorophenyl)-4-methoxypyridazin-3(2H)-one | 42.23 mmol, 13.8 g | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)OC)C1=CC=C(C=C1)Cl | C18H15ClN2O2
reactant | POCl3 | 20.0 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | MeOH | 100 mL | CO | CH4O
product | 2-benzyl-4-chloro-5-(4-chlorophenyl)pyridazin-3(2H)-one | 9.2 g, 66% | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)Cl)C1=CC=C(C=C1)Cl | C17H12Cl2N2O
